US09029384B2
Diphenyl phosphite (1.9 mL, 10 mmol) was added to a solution of 2-amino-6-chlorobenzoic acid (495 mg, 2.9 mmol) and (S)-2-(tert-butoxycarbonylamino)propanoic acid (710 mg, 3.77 mmol) in pyridine (3 mL). The reaction mixture was stirred at 40° C. for 2 hours. Aniline (274 mg, 3.48 mmol) was then added to the reaction mixture, which was then stirred at 55° C. for 12 hours. The reaction mixture was cooled to room temperature. This mixture was then diluted with EtOAc (50 mL), washed with 1N aqueous HCl (2×50 mL), brine (50 mL), and dried over sodium sulfate. The organics layer was filtered and concentrated in vacuuo to afford material which was purified by column chromatography on SiO2 eluting with EtOAc in hexanes (0-50%) to afford (S)-tert-butyl 1-(5-chloro-4-oxo-3-phenyl-3,4-dihydroquinazolin-2-yl)ethylcarbamate as a solid. ES/MS m/z=400.1 (M+H+).

reactant | Diphenyl phosphite | 10 mmol, 1.9 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
reactant | 2-amino-6-chlorobenzoic acid | 2.9 mmol, 495 mg | NC1=C(C(=O)O)C(=CC=C1)Cl | C7H6ClNO2
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 3.77 mmol, 710 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | Aniline | 3.48 mmol, 274 mg | NC1=CC=CC=C1 | C6H7N
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 1-(5-chloro-4-oxo-3-phenyl-3,4-dihydroquinazolin-2-yl)ethylcarbamate | ClC1=C2C(N(C(=NC2=CC=C1)[C@H](C)NC(OC(C)(C)C)=O)C1=CC=CC=C1)=O | C21H22ClN3O3
